US05459151
2-[4-(3-cyclopentyloxy-4-methoxyphenyl)piperidin-1-yl]-2 -oxo-acetic acid
To a stirred solution of 2-[4-(3-cyclopentyloxy-4-methoxyphenyl)piperidin-1-yl]-2-oxo-acetic acid ethyl ester (14.1 mmol, 5.3 g) in THF (140 mL) was added aqueous lithium hydroxide solution (1.0M; 17.6 mmol, 17.6 mL) in one portion at room temperature and the resulting homogeneous solution stirred overnight. The precipitated solution was diluted with H2O (150 mL) and the THF was removed in vacuo. The aqueous phase was diluted with saturated NaHCO3 (400 mL), and acidified with 2N HCl. The aqueous phase was then extracted with EtOAc (3×400 mL) and the combined organic layers were dried (Na2SO4) and concentrated in vacuo. The product was triturated with Et2O/hexane to yield the title compound as a white solid, mp=112°-113° C. (10.8 mmol, 3.74 g, 76%).

reactant | 2-[4-(3-cyclopentyloxy-4-methoxyphenyl)piperidin-1-yl]-2-oxo-acetic acid ethyl ester | 14.1 mmol, 5.3 g | C(C)OC(C(=O)N1CCC(CC1)C1=CC(=C(C=C1)OC)OC1CCCC1)=O | C21H29NO5
reactant | lithium hydroxide | 17.6 mmol, 1.0M, 17.6 mL | [OH-].[Li+]
solvent | THF | 140 mL | C1CCOC1 | C4H8O
solvent | H2O | 150 mL | O | H2O
product | 2-[4-(3-cyclopentyloxy-4-methoxyphenyl)piperidin-1-yl]-2 -oxo-acetic acid | C1(CCCC1)OC=1C=C(C=CC1OC)C1CCN(CC1)C(C(=O)O)=O | C19H25NO5
